US05328910
A mixture of 4-anilino-6-chloro-2-methylpyrimidine-5-acetic acid, methyl ester (5.0g, 17.2mM) and benzylmethylamine (2.22ml, 17.2mM) was heated at 160° C. for 3.5 hours. The mixture was cooled and then partitioned between methylene chloride (50ml) and 2M hydrochloric acid (50ml). The organic layer was separated, washed with a solution of sodium hydroxide (2M, 50ml), water, dried and the solvent evaporated. The residue was purified by flash column chromatography on silica (Merck 9385), eluting with ethyl acetate/hexane (20:80, v/v) to give 4-(N-benzylmethylamino)-2-methyl-6-oxo-7-phenyl-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidine (2.64g, 44.6%) m.p. 81°-84° C.; microanalysis, found; C, 73.0; H, 6.0; N, 16.3%; C21H20H40 requires C, 73.3; H, 5.8; N, 16.3%; NMR: DMSOd6 : 2.3(3H, s, pyrimidine-CH3), 3.2(3H,s,N-CH3), 3.95(2H,s,COCH2), 4.85(2H,s,N-CH2), 7.2-7.55(10H, complex, aromatic).

reactant | 4-anilino-6-chloro-2-methylpyrimidine-5-acetic acid, methyl ester | 17.2mM, 5.0g | N(C1=CC=CC=C1)C1=NC(=NC(=C1CC(=O)OC)Cl)C | C14H14ClN3O2
reactant | benzylmethylamine | 17.2mM, 2.22ml | C(C1=CC=CC=C1)CN | C8H11N
product | 4-(N-benzylmethylamino)-2-methyl-6-oxo-7-phenyl-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidine | 2.64g, 44.6% | C(C1=CC=CC=C1)CNC=1C2=C(N=C(N1)C)N(C(C2)=O)C2=CC=CC=C2 | C21H20N4O
